US06262059B1
Ethyl-4-(cyclopentylcarbonyl)piperazin-1-yl-for-mamidate hydrochloride (0.01 mole) is added to a solution of 4,5-dimethoxy-2-aminobenzonitrile (0.01 mole) in 30 ml. of N,N-dimethylformamide. Sodium hydride (0.02 mole of a 56% suspension in mineral oil) is added and the mixture stirred 0.5 hr. at room temperature and then at 100° C. for a period of 12 hr. When the reaction period is complete, water is added providing 4-amino-2-[4-cyclopentylcarbonyl)-1-piperazinyl]-6,7-dimethoxyquinazoline.

reactant | Ethyl-4-(cyclopentylcarbonyl)piperazin-1-yl-for-mamidate hydrochloride | 0.01 mole | Cl.C(C)NC(=O)N1CCN(CC1)C(=O)C1CCCC1
reactant | 4,5-dimethoxy-2-aminobenzonitrile | 0.01 mole | COC1=CC(=C(C#N)C=C1OC)N | C9H10N2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
reactant | Sodium hydride | [H-].[Na+]
solvent | water | O | H2O
product | 6,7-dimethoxyquinazoline | COC=1C=C2C=NC=NC2=CC1OC | C10H10N2O2
